US08835419B2
Synthesis of 2-chloro-N-((1R)-1-(2,4-dichlorophenyl)ethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (see FIG. 5)
A mixture of (R)-4-chloro-3-(1-(2,4-dichlorophenyl)ethylamino)phenyl trifluoromethanesulfonate (6.0 g, 13.3 mmol), bis(pinacolato)diboron (4.08 g, 15.9 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (Pd(dppf)Cl2) (0.39 g, 0.53 mmol), and potassium acetate (3.93 g, 39.9 mmol) inp-dioxane (100 mL) was purged with nitrogen for 5 min, and then heated at 95° C. for 4 h. After cooling to room temperature, the mixture was filtered and washed with EtOAc (50 mL). The filtrate was concentrated in vacuo. The resulting crude mixture was diluted with ethyl acetate (200 mL), washed with deionized water, brine, dried (Na2SO4), and concentrated in vacuo. The resulting crude was purified by flash chromatography (SiO2, 0-15% ethyl acetate in hexanes) to afford the title compound as a white solid (4.5 g, 10.5 mmol, 79%). 1H NMR (400 MHz, CDCl3) δ 7.35 (d, J=6.0 Hz, 1H), 7.27 (d, J=8.4 Hz, 1H), 7.22 (d, J=5.2 Hz, 1H), 7.12 (dd, J=2.0, 8.4 Hz, 1H), 6.98 (dd, J=0.8, 7.6 Hz, 1H), 6.77 (s, 1H), 5.03-4.98 (m, 1H), 4.66 (d, J=6.4 Hz, 1H), 1.52 (d, J=6.8 Hz, 3H), 1.27 (s, 6H), 1.25 (s, 6H); MS: (ES) m/z calculated for C20H24BCl3NO2 [M+H]+ 426.1. found 426.

reactant | (R)-4-chloro-3-(1-(2,4-dichlorophenyl)ethylamino)phenyl trifluoromethanesulfonate | 13.3 mmol, 6.0 g | FC(S(=O)(=O)OC1=CC(=C(C=C1)Cl)N[C@H](C)C1=C(C=C(C=C1)Cl)Cl)(F)F | C15H11Cl3F3NO3S
reactant | bis(pinacolato)diboron | 15.9 mmol, 4.08 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 39.9 mmol, 100 mL, 3.93 g | C(C)(=O)[O-].[K+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.53 mmol, 0.39 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-chloro-N-((1R)-1-(2,4-dichlorophenyl)ethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 10.5 mmol, 4.5 g, 79% | ClC1=C(N[C@H](C)C2=C(C=C(C=C2)Cl)Cl)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C20H23BCl3NO2
